US05846982
6-chloro-3-(1-(2-(N-(2-pyridinyl)amino)ethyl)-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
A solution of 0.83 gm (2.28 mMol) N-(2-pyridinyl)-2-(4-(6-chloro-1H-indol-3-yl)-1,2,3,6-tetrahydropyridin-1-yl)acetamide in 20 mL tetrahydrofuran was added dropwise to a slurry of 0.130 gm (3.41 mMol) lithium aluminum hydride in 10 mL tetrahydrofuran at 0° C. at such a rate as to maintain the reaction temperature >5° C. The reaction mixture was then allowed to warm to room temperature over 2 hours. The reaction mixture was then quenched by the sequential addition of water, 15% aqueous sodium hydroxide, and water with vigorous stirring. The resulting slurry was filtered through a bed of celite and the filtrate concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with a chloroform gradient containing 5-8% methanol. Fractions containing product were combined and concentrated under reduced pressure to provide 0.31 gm (39%) of the desired compound.

reactant | N-(2-pyridinyl)-2-(4-(6-chloro-1H-indol-3-yl)-1,2,3,6-tetrahydropyridin-1-yl)acetamide | 2.28 mMol, 0.83 gm | N1=C(C=CC=C1)NC(CN1CCC(=CC1)C1=CNC2=CC(=CC=C12)Cl)=O | C20H19ClN4O
reactant | lithium aluminum hydride | 3.41 mMol, 0.130 gm | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 6-chloro-3-(1-(2-(N-(2-pyridinyl)amino)ethyl)-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 0.31 gm, 39% | ClC1=CC=C2C(=CNC2=C1)C=1CCN(CC1)CCNC1=NC=CC=C1 | C20H21ClN4
